US07498353B2
tert-Butyl 6-(2-(3-(2,6-dichlorophenyl)isoxazol-5-yl)pyridin-4-ylamino)-2-methyl-4-oxohexan-3-ylcarbamate (445 mg, 0.83 mmol) was dissolved in methylene chloride (10 mL) with triethylamine (140 μL, 1.0 mmol). The solution was cooled on an ice-water bath and then a solution of dichloroacetyl chloride (100 μL, 1.0 mmol) in methylene chloride (1 mL) was added dropwise. The reaction mixture was allowed to stir overnight while warming to room temperature. The solution was washed successively with water and saturated sodium bicarbonate solution, then dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The resulting residue was purified by flash column chromatography on silica gel, eluting with 0.5:99.5 methanol:methylene chloride to provide tert-butyl 6-(2,2-dichloro-N-(2-(3-(2,6-dichlorophenyl)isoxazol-5-yl)pyridin-4-yl)acetamido)-2-methyl-4-oxohexan-3-ylcarbamate (185 mg) as a pink foam. 1H NMR (CDCl3): 8.85 (d, 1H), 7.91 (d, 1H), 7.61-7.35 (m, 5H), 7.18 (s, 1H), 6.11 (s, 1H), 5.02 (d, 1H), 4.28-4.08 (m, 2H), 3.15-2.82 (m, 3H), 2.20-2.10 (m, 1H), 1.42 (s, 9H), 1.08 (d, 3H), 0.85 ppm (d, 3H). MW=644 confirmed by LC-MS, tr=16.72 min (Method Y) MH+=642-646.

reactant | tert-Butyl 6-(2-(3-(2,6-dichlorophenyl)isoxazol-5-yl)pyridin-4-ylamino)-2-methyl-4-oxohexan-3-ylcarbamate | 0.83 mmol, 445 mg | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1)C1=NC=CC(=C1)NCCC(C(C(C)C)NC(OC(C)(C)C)=O)=O | C26H30Cl2N4O4
reactant | triethylamine | 1.0 mmol, 140 μL | C(C)N(CC)CC | C6H15N
reactant | dichloroacetyl chloride | 1.0 mmol, 100 μL | ClC(C(=O)Cl)Cl | C2HCl3O
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 6-(2,2-dichloro-N-(2-(3-(2,6-dichlorophenyl)isoxazol-5-yl)pyridin-4-yl)acetamido)-2-methyl-4-oxohexan-3-ylcarbamate | 185 mg | ClC(C(=O)N(C1=CC(=NC=C1)C1=CC(=NO1)C1=C(C=CC=C1Cl)Cl)CCC(C(C(C)C)NC(OC(C)(C)C)=O)=O)Cl | C28H30Cl4N4O5
